US08748011B2
Synthesis of 2-(phenylamino)benzenethiol
A 250 mL round bottom flask was charged with sodium methanethiolate (5.18 g, 73.8 mmol), 2-(methylthio)-N-phenylaniline (13.25 g, 61.5 mmol) and hexamethyiphosphoramide (HMPA) (100 mL). The reaction mixture was heated up to 140° C. for 7 hours. The reaction was cooled to room temperature and 100 mL of 1N HCl was added. The reaction mixture was extracted with 3×100 mL ethyl acetate, the organic portion was washed with 3×50 mL brine, dried over sodium sulfate and evaporated to yield the desired compound. (12 g, 97%)

reactant | sodium methanethiolate | 73.8 mmol, 5.18 g | C[S-].[Na+]
reactant | 2-(methylthio)-N-phenylaniline | 61.5 mmol, 13.25 g | CSC1=C(NC2=CC=CC=C2)C=CC=C1 | C13H13NS
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | hexamethyiphosphoramide | 100 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2-(phenylamino)benzenethiol | C1(=CC=CC=C1)NC1=C(C=CC=C1)S | C12H11NS
